US08580794B2
5-nitro-6-((tetrahydro-2H-pyran-4-yl)methylamino)pyridine-3-sulfonamide
The title compound was prepared by substituting EXAMPLE 364D for 4-fluoro-3-nitrobenzenesulfonamide and (tetrahydro-2H-pyran-4-yl)methanamine for (4-fluorotetrahydro-2H-pyran-4-yl)methanamine in EXAMPLE 138D.

reactant | 4-fluoro-3-nitrobenzenesulfonamide | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
reactant | (tetrahydro-2H-pyran-4-yl)methanamine | O1CCC(CC1)CN | C6H13NO
reactant | (4-fluorotetrahydro-2H-pyran-4-yl)methanamine | FC1(CCOCC1)CN | C6H12FNO
product | 5-nitro-6-((tetrahydro-2H-pyran-4-yl)methylamino)pyridine-3-sulfonamide | [N+](=O)([O-])C=1C=C(C=NC1NCC1CCOCC1)S(=O)(=O)N | C11H16N4O5S
